US07858613B2
Naphthalen-1-ylthiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]thiepin-4-ylmethyl)ester
To a solution of 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]thiepin-5-one (476 mg, 2.0 mmol) in 15 ml of tetrahydrofuran were added, at room temperature, triethylamine (0.31 ml, 2.2 mmol) and 1-naphthyl isothiocyanate (407 mg, 2.2 mmol). The mixture was heated to reflux for 24 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:19 tert-butyl methyl ether/dichloromethane). The product was obtained in a yield of 87 mg (9%).

reactant | 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]thiepin-5-one | 2.0 mmol, 476 mg | OCC1(C(C2=C(SCC1)C=CC=C2)=O)CO | C12H14O3S
reactant | triethylamine | 2.2 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | 1-naphthyl isothiocyanate | 2.2 mmol, 407 mg | C1(=CC=CC2=CC=CC=C12)N=C=S | C11H7NS
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Naphthalen-1-ylthiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]thiepin-4-ylmethyl)ester | OCC1(C(C2=C(SCC1)C=CC=C2)=O)COC(NC2=CC=CC1=CC=CC=C21)=S | C23H21NO3S2
